US07320994B2
{2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-4-yl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanol
Add LiAlH4 (2.6 mL, 2.6 mmol, 1.0 M in THF) dropwise to a stirred solution of {2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-4-yl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone (1.28 g, 2.18 mmol) in THF (20 mL, anhydrous) at RT. After 15 min, add water (2.6 mL) dropwise with rapid stirring to quench. Add 1N NaOH solution (2.6 mL) dropwise, followed by dropwise addition of water (7.8 mL). Filter out solids and rinse with THF. Concentrate, dissolve in CH2Cl2, wash with saturated NaHCO3 solution (2×), dry over MgSO4 and concentrate. Purify the solid by flash chromatography on silica gel eluting with 0-15% ACN/Et2O to afford the title compound (882 mg, 69%); MS(IS) 590 (M+1); TLC: Rf=0.32 (7.5% EtOH/CHCl3).

reactant | LiAlH4 | 2.6 mmol, 1.0 M, 2.6 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | {2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-4-yl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone | 2.18 mmol, 1.28 g | FC(C=1C=C(CN2N=NC(=C2C2=CC=NC=C2)C2=NC=CC=C2C(=O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C28H16ClF6N5O
reactant | water | 2.6 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | {2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-4-yl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanol | 882 mg, 69% | FC(C=1C=C(CN2N=NC(=C2C2=CC=NC=C2)C2=NC=CC=C2C(O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C28H18ClF6N5O
